US06369075B1
2-(5-Trifluoromethyl-pyridin-2-yl)-benzoic acid
2-(5-Trifluoromethyl-pyridin-2-yl)-benzoic acid isopropyl ester was dissolved in 10 ml of a 3:1:1 mixture of tetrahydrofuran-methanol-water, and lithium hydroxide monohydrate (161 mg, 3.84 mmol) was added. After stirring for 3 h at room temperature, the volatiles were removed under vacuum and 5 ml of water were added to the mixture, which was brought to pH 6 with 1N HCl. The resulting slurry was extracted with ethyl acetate, the combined organic layers were dried (magnesium sulfate), filtered and concentrated under vacuum to provide the title compound.

reactant | 2-(5-Trifluoromethyl-pyridin-2-yl)-benzoic acid isopropyl ester | C(C)(C)OC(C1=C(C=CC=C1)C1=NC=C(C=C1)C(F)(F)F)=O | C16H14F3NO2
reactant | lithium hydroxide monohydrate | 3.84 mmol, 161 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran-methanol water | O1C(CCC1)CO.O
product | 2-(5-Trifluoromethyl-pyridin-2-yl)-benzoic acid | FC(C=1C=CC(=NC1)C1=C(C(=O)O)C=CC=C1)(F)F | C13H8F3NO2
